US04973721
25.6 mg of (22R)-1α,3β-diacetoxy-25-hydroxy-22-methoxy-cholest-5-en (Vb1) was dissolved in 2 ml of carbon tetrachloride, the mixuture was refluxed under heating under an argon gas stream atmosphere, and 12 mg of N-bromosuccinimide was added to the mixture. After refluxing for 25 minutes, the mixture was cooled with ice-water, and the insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was dissolved in 5 ml of tetrahydrofuran, and after adding thereto catalytic amount of tetra-n-butyl ammonium bromide, the mixture was stirred for 1 hour under an argon gas stream atmosphere. To the reaction mixture was added 0.17 ml of tetra-n-butyl ammonium fluoride (1M solution), and the mixture was stirred for 30 minutes at room temperature. The mixture was diluted with ethyl acetate, washed with 2N hydrochloric acid, saturated aqueous sodium hydrogen carbonate, and water, successively, and dried over sodium sulfate. The residue was dissolved in 10 ml of acetone, and after adding thereto about 5 mg of p-toluenesulfonic acid, the mixture was stirred overnight at room temperature under an argon gas stream atmosphere, under dark condition. The reaction mixture was diluted with ethyl acetate, washed with water, and dried over magnesium sulfate. The solvent was distilled away, and the residue was purified by using a column (Merck Company. Lichroprep RP-8, size A, solution; 15% watermethanol) to give 4.33 mg of (22R)-1α,3β-diacetoxy- 22-methoxy-cholest-5,7-dien-25-ol (VIb1).

reactant | (22R)-1α,3β-diacetoxy-25-hydroxy-22-methoxy-cholest-5-en | 25.6 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H]([C@@H](CCC(C)(C)O)OC)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C32H52O6
reactant | N-bromosuccinimide | 12 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (22R)-1α,3β-diacetoxy- 22-methoxy-cholest-5,7-dien-25-ol | 4.33 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H]([C@@H](CCC(C)(C)O)OC)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C32H50O6
